data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1667,1839,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[NH+:17][N-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[C:25](=[O:26])[NH:27][CH3:28].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:25](=[O:26])[NH:27][CH3:28])[NH:17][N:18]2[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,20.650454113589088,-9.084058438727094
2307,2563,[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[CH:25]=[N+:26]([CH3:27])[C-:28]([CH3:29])[C:30]([CH3:31])=[O:32]>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:28]([CH3:29])([C:30]([CH3:31])=[O:32])[N:26]([CH3:27])[CH:25]2[C:23]([NH:22][CH3:21])=[O:24],water,298.15,26.165729544727768,-30.719759057023737
5094,5782,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[NH:27][CH3:28]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:25](=[O:26])[NH:27][CH3:28])[O:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,6.152842488284636,-33.633795178126576
3085,3467,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[CH:7]=[NH+:8][N-:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1>>[CH2:1]1[CH2:2][N:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[NH:8][CH:7]1[C:5]([O:4][CH3:3])=[O:6],water,298.15,22.73544527818971,-28.65225090072908
3553,4051,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14]([C:15]#[N:16])[c:17](=[O:18])[o:19]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]1([C:15]#[N:16])[NH:13][C:12]2([CH3:11])[O:19][C:17]1=[O:18],water,298.15,42.12511666803267,14.526084036949165
1395,1536,[CH3:12][C:13](=[O:14])[CH-:15][N+:16]([CH3:17])=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:15]([C:13]([CH3:12])=[O:14])[N:16]([CH3:17])[C:18]2([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,29.91597454179729,-13.017142044941457
4289,4906,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][O+:13]=[C:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([C:15](=[O:16])[NH:17][CH3:18])([C:19](=[O:20])[O:21][CH3:22])[O:13][N:12]2[CH3:11],water,298.15,9.773217545743968,-50.10989300977038
2838,3153,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][O:28][C:29](=[O:30])[CH-:31][N+:32]([CH3:33])=[C:34]([C:35](=[O:36])[O:37][CH3:38])[C:39](=[O:40])[O:41][CH3:42]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:34]([C:35](=[O:36])[O:37][CH3:38])([C:39](=[O:40])[O:41][CH3:42])[N:32]([CH3:33])[CH:31]2[C:29]([O:28][CH3:27])=[O:30],water,298.15,20.650221022680444,-41.60910181568242
5151,5849,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20]#[N:21])[NH+:22]=[C:23]([CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20]#[N:21])[NH:22][C:23]2([CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,30.260162699114016,7.7063091628825795
716,777,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2.[N:14]#[C:15][C:16]#[N+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:16]([C:15]#[N:14])=[N:17][CH:18]3[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,12.701487171610456,-60.22590710786311
